US08283354B2
To (R)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol (50.8 mg, 0.16 mmol) was added 500 μL of CH2Cl2 and the solution was cooled to 0° C. To this solution was added sequentially triethylamine (33.2 μL, 0.24 mmol) and benzyl chloroformate (29.2 mg, 0.17 mmol). The reaction mixture was stirred from 0° C. to 5° C. over 45 min, then diluted with water and CH2Cl2 (10 mL). The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give (R)-{1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester. LC/MS: m/z 455.2 (M+H)+ at 2.81 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol | 0.16 mmol, 50.8 mg | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C19H20N4O
reactant | triethylamine | 0.24 mmol, 33.2 μL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.17 mmol, 29.2 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 μL | C(Cl)Cl | CH2Cl2
product | (R)-{1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C27H26N4O3
